US07915424B2
5-(5-Chloropyridin-3-ylethynyl)-2-fluoro-N,N-dimethylbenzamide hydrochloride
Add bis(triphenylphosphine)palladium (II) dichloride (46 mg, 0.07 mmol), copper (I) iodide (25 mg, 0.13 mmol), and 3-chloro-5-ethynylpyridine, (prepared as described in PREPARATION 27), (200 mg, 1.45 μmmol) to a solution of 2-fluoro-5-iodo-N,N-dimethylbenzamide, (prepared as described in PREPARATION 45), (0.600 g, 2.1 mmol) in triethylamine (4.3 mL, 31 mmol) and place in an oil bath at 70° C. Add toluene (10 mL) and heat for 2 h. Concentrate and purify by silica gel chromatography, eluting with 50:50 ethyl acetate:hexanes, to give the free base of the title compound as a colorless oil. Dissolve the free base in diethyl ether (50 mL) and add 2 M hydrogen chloride in diethyl ether (2.6 mL, 5.2 mmol). Stir for 10 min, concentrate, triturate with diethyl ether and dry to give the title compound as a light yellow solid (350 mg, >99%).

reactant | 3-chloro-5-ethynylpyridine | 200 mg | ClC=1C=NC=C(C1)C#C | C7H4ClN
reactant | 2-fluoro-5-iodo-N,N-dimethylbenzamide | 2.1 mmol, 0.600 g | FC1=C(C(=O)N(C)C)C=C(C=C1)I | C9H9FINO
reactant | triethylamine | 31 mmol, 4.3 mL | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium | 0.07 mmol, 46 mg | C1([P]([Pd][P](C2=CC=CC=C2)(C3=CC=CC=C3)C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)=CC=CC=C1
catalyst | copper (I) iodide | 0.13 mmol, 25 mg | [Cu]I
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
product | 5-(5-Chloropyridin-3-ylethynyl)-2-fluoro-N,N-dimethylbenzamide hydrochloride | Cl.ClC=1C=C(C=NC1)C#CC=1C=CC(=C(C(=O)N(C)C)C1)F | InChI=1S/C16H12ClFN2O.ClH/c1-20(2)16(21)14-8-11(5-6-15(14)18)3-4-12-7-13(17)10-19-9-12;/h5-10H,1-2H3;1H
